2102-09-06 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2102-9-5**] 06:40 PM
 BLOOD CULTURED - At [**2102-9-5**] 09:18 PM
 URINE CULTURE - At [**2102-9-6**] 12:00 AM
   - BP was going down and UOP reduced to 25cc/hr, given 4L D5 with
   Bicarb.
   - GI recommended flex sig to r/o ischemia given lactate
   - scope: No erythema, ulcers, or other findings to suggest ischemic or
   infectious colitis. (biopsy) Otherwise normal sigmoidoscopy to
   transverse colon.
   - [**Doctor First Name **]: no additional recs
   - Serial Hct - 32.5 --> 35.9 --> 36.9
   - Pt noted to have increased wheezing with IVF with HCO3 with no
   increase in O2 saturation, pt ordered for Albuterol nebs, repeat ABG
   ordered and similar to prior ABG. CXR showed some pulmonary edema, held
   HCO3 gtt. Lactate continuing to increase
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-9-5**] 07:43 PM
   Morphine Sulfate - [**2102-9-6**] 04:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-9-6**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 92 (88 - 117) bpm
   BP: 114/50(67) {85/38(48) - 131/69(89)} mmHg
   RR: 16 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88 kg (admission): 85.1 kg
   Height: 67 Inch
    CVP: 5 (2 - 8)mmHg
   Total In:
                                                                  5,081 mL
                                                                  2,732 mL
   PO:
   TF:
   IVF:
                                                                  4,120 mL
                                                                    170 mL
   Blood products:
                                                                    961 mL
                                                                  2,562 mL
   Total out:
                                                                    650 mL
                                                                  1,270 mL
   Urine:
                                                                    250 mL
                                                                    270 mL
   NG:
                                                                    350 mL
   Stool:
                                                                    400 mL
                                                                    650 mL
   Drains:
   Balance:
                                                                  4,431 mL
                                                                  1,462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Cardiovascular: Gen: well appearing male, sitting upright,
   uncomfortable
   CV: rrr no r/g/m
   Lungs: clear anteriorly
   Abd: mildy tender, no rebound guarding
   Ext: 1+ edema bilaterally, 2+ DP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   8.2 g/dL
   152 mg/dL
   1.0 mg/dL
   22 mEq/L
   5.4 mEq/L
   36 mg/dL
   116 mEq/L
   142 mEq/L
   23.4 %
   23.5 K/uL
        [image002.jpg]
                             [**2102-9-5**]  06:00 PM
                             [**2102-9-5**]  09:45 PM
                             [**2102-9-6**]  12:13 AM
                             [**2102-9-6**]  03:50 AM
   WBC
   33.2
   30.0
   23.5
   Hct
   22.8
   16.9
   23.9
   23.4
   Plt
   292
   169
   149
   Cr
   0.8
   1.0
   TropT
   <0.01
   0.02
   Glucose
   149
   152
   Other labs: PT / PTT / INR:18.4/40.2/1.7, CK / CKMB /
   Troponin-T:195/5/0.02, Alk Phos / T Bili:/1.4, Differential-Neuts:91.0
   %, Band:0.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0 %, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: urine sodium = 10
   Imaging: CXR: L IJ in SVT
   Microbiology: blood cultures pending
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   This is a 79 y.o. w/ h.o. HTN, s/p L THR for chronic L hip pain p/w GI
   bleed s/p 4u PRBC.
   .
   ##. GI Bleed: s/p 9 units and 2 units FFP.  Will undergo a EGD this AM
   for possible correctable lesion.  Differential includes ulcer disease
   (peptic versus NSAID induced), Diefaloy lesion, AVM. Per rehab note it
   is unclear if pt received NSAIDs in the hospital however it appears he
   has not had NSAIDs during his rehab stay. Pt may have stress ulcer
   given his recent hospital course of surgery and intubation, peptic
   ulcer disease also a consideration. Dieulafoy's lesion versus AVM is
   also a consideration that may have been exacerbated with his Coumadin
   medication and ASA. Lower GIB also on ddx.  NG lavage currently
   negative.  He is off pressors.
   - crossmatch for 6 units, will transfuse 3 units for goal Hct >30
   - will check q4hr Hcts following transfusions
   - will bolus and start Pantoprazole gtt
   - will continue active type and screen
   - will monitor CVP and UOP for goal of 15 and >30cc/hr respectively
   - if EGD unsuccessful, angiography
   - surgery aware
   - will keep INR goal <1.5.
   .
   ##. Abdominal Pain: Pt also noted abdominal pain that is diffuse that
   started last night. Pt had constipation from ileus with a progressive
   leukocytosis of 16 to 33. Pt denies any fevers with a soft but tender
   abdomen. KUB and CT abdomen r/o perforation.
   - continue to monitor abdominal exam
   - morphine PRN for pain control
   - will keep NPO
   .
   ##. Leukocytosis: Pt noted to have a leukocytosis that has progressed
   from 16 2 days ago to 20 and the 33. [**Month (only) 51**] be related to abdominal pain
   which will undergo assessment with CT scan. CT abdomen shows no free
   air or free fluid.  Pt currently afebrile, CXR shows no PNA. Other
   causes to consider include possible prosthesis infection though current
   examination showed no gross signs of infection. Pt could also become
   bacteremic during GI bld however it is lower on the differential.
   - trend WBC
   - plain film of hip in the AM
   - will pan culture
   - obtain outside hospital records
   .
   ##. Decreased urine ouput: Pt noted to have very low urine ouput over
   past few hours. Pt on arrival noted to be hypotensive with SBP in the
   60s, decreased UOP appears prerenal.  Creatinine check WNL will
   continue to trend though. Will monitor UOP response to IVF and blood
   transfusion.
   - trend Creatinine
   - monitor UOP for goal >30cc/hr
   .
   ##. s/p Left THR: Pt underwent recent L THR, as mentioned above
   leukocytosis may be from possible hip infection. Current exam showed no
   gross signs of infection.
   - check plain film in the AM of hip to eval for any evidence of
   erosions
   - keep on bed rest and pneumoboots
   .
   ##. HTN: Pt usually take Lisinopril as outpt for HTN, will hold off as
   pt is GI bleed.
   - will resume Lisinopril once GI bleed resolves
   .
   ##. FEN: Will continue with IVF until blood products arrive, replete
   electrolytes, NPO
   .
   ##. Prophylaxis: Pneumoboots, on PPI gtt for bleed
   .
   ##. Access: 1 PIV, Left IJ
   .
   ##. Code: FULL CODE
   .
   ##. Communication: Patient, pt's wife. [**Telephone/Fax (1) 10552**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-9-5**] 05:41 PM
   18 Gauge - [**2102-9-5**] 05:41 PM
   Multi Lumen - [**2102-9-5**] 06:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-09-07 07:15:00 Physician Resident Progress Note
Chief Complaint: 79 yom s/p left total hip arthroplasty admitted with
   severe GI bleed requiring activation of massive transfusion protocol,
   now s/p EGD with attempted clipping of vessel, now with stable HCT.
   24 Hour Events:
   - EGD: red blood in duodenum with clots, bleeding vessel noted in bulb
   with multiple additional non-bleeding ulcers, epinephrine injected and
   4 clips placed with hemostasis
   - transfused 3 more units PRBC's with bump: 25.6 -> 28.6
   - transfused 2 more units PRBC's with bump: 28.6 -> 30.6 -> 30.7
   - total products 15 PRBC's, 5 FFP, 1 Platelets, 1 Cryo
   - drastically reduced stool frequency and resolution of abdominal pain
   - continued bleeding from left hip arthroplasty site requiring dressing
   changes
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2102-9-6**] 09:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-9-7**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.9
C (96.7
   HR: 67 (67 - 102) bpm
   BP: 116/40(59) {81/33(50) - 152/58(82)} mmHg
   RR: 13 (12 - 47) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.3 kg (admission): 85.1 kg
   Height: 67 Inch
    CVP: 13 (5 - 15)mmHg
   Total In:
                                                                  6,813 mL
                                                                    153 mL
   PO:
   TF:
   IVF:
                                                                  1,889 mL
                                                                    153 mL
   Blood products:
                                                                  4,924 mL
   Total out:
                                                                  2,995 mL
                                                                    820 mL
   Urine:
                                                                  1,570 mL
                                                                    820 mL
   NG:
                                                                    350 mL
   Stool:
                                                                  1,075 mL
   Drains:
   Balance:
                                                                  3,818 mL
                                                                   -667 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General: NAD
   Lungs: CTAB, no WRR
   Heart: RRR, no MRG
   Abdomen: soft, NTND
   Extremities: NT, WWP, DP 2+
   Labs / Radiology
   157 K/uL
   10.5 g/dL
   97 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.6 mEq/L
   37 mg/dL
   115 mEq/L
   145 mEq/L
   29.7 %
   22.3 K/uL
        [image002.jpg]
                             [**2102-9-5**]  06:00 PM
                             [**2102-9-5**]  09:45 PM
                             [**2102-9-6**]  12:13 AM
                             [**2102-9-6**]  03:50 AM
                             [**2102-9-6**]  07:36 AM
                             [**2102-9-6**]  11:15 AM
                             [**2102-9-6**]  02:56 PM
                             [**2102-9-6**]  06:25 PM
                             [**2102-9-6**]  10:51 PM
                             [**2102-9-7**]  03:03 AM
   WBC
   33.2
   30.0
   23.5
   22.3
   Hct
   22.8
   16.9
   23.9
   23.4
   25.6
   25.8
   28.6
   30.6
   30.7
   29.7
   Plt
   292
   169
   149
   172
   158
   157
   Cr
   0.8
   1.0
   1.1
   0.8
   TropT
   <0.01
   0.02
   Glucose
   149
   152
   136
   97
   Other labs: PT / PTT / INR:11.9/32.2/1.0, CK / CKMB /
   Troponin-T:195/5/0.02, Alk Phos / T Bili:/1.4, Differential-Neuts:91.0
   %, Band:0.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:185
   mg/dL, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Microbiology
   - blood 10/6: pending
   - urine [**9-5**]: pending
   Imaging
   - CXR [**9-6**]: opacification of infrahilar left lobe could represent
   recent aspiration
   Assessment and Plan
   This is a 79 yo. w/ ho HTN, s/p L THR for chronic L hip pain p/w GI
   bleed s/p 4u PRBC.
   # GIB:  Patient is s/p EGD revealing bleeding ulcer in the duodenal
   bulb which was subsequently clipped and injected.  Initially, HCT did
   not bump appropriately with transfusions; however, HCT has remained
   stable overnight.  Additional non-bleeding ulcerations were noted in
   the duodenal bulb.  Patient did report history of substantial NSAID use
   in setting of hip pain 1 month prior to surgery.  Additional etiologies
   may include H. Pylori and ZES.
   - continue to follow with TID HCT
s, maintaining active type and screen
   and transfusing to goal HCT > 29
   - d/w GI need for repeat EGD in setting of stable HCT
   - continue pantoprazole gtt pending GI recs
   - consider testing for H. Pylori IgG / IgM
   - consider checking gastrin level for ZES
   #. Abdominal Pain: patient initially noted diffused abdominal pain,
   likely cramping related blood induced diarrhea.  Abdominal imaging was
   unremarkable.  Patient did have progressive leukocytosis from 16 to 33
   now to 22.3.   Patient has remained afebrile and suspicion for
   infection is low.  Believe this likely represents demargination from
   systemic inflammatory response.
   - keep NPO
   - morphine PRN for pain control
   - serial exams
   #. Leukocytosis:  patient continues to remain afebrile with substantial
   but downward trending leukocytosis.  Patient is s/p hip arthroplasty
   and infection of the prosthesis should be considered; however, exam is
   not concerning for infection
   - f/u pan cultures
   - take down dressing to evaluate hip wound
   - consider hip XR this afternoon with orthopedics consult to evaluate
   hip
   - repeat CXR
   #. HTN: holding Lisinopril in setting of GI bleed and hypotension at
   presentation.
   #. FEN: daily electrolytes with PRN repletion, NPO
   #. Prophylaxis: Pneumoboots, on PPI gtt for bleed
   #. Access: 1 PIV, Left IJ
   #. Code: FULL CODE
   #. Communication: Patient, pt's wife.
   # Disposition:  ICU for day, potentially to floor PM or tomorrow AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-9-5**] 05:41 PM
   18 Gauge - [**2102-9-5**] 05:41 PM
   Multi Lumen - [**2102-9-5**] 06:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-09-07 10:23:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2102-9-6**] 08:15 AM
   -EGD with Duodenal Ulcer now s/p clipping
   -Transfused 5 units yesterday with 15 units total.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2102-9-6**] 09:32 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2102-9-7**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 66 (66 - 96) bpm
   BP: 116/50(68) {104/33(52) - 137/58(76)} mmHg
   RR: 13 (12 - 47) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.3 kg (admission): 85.1 kg
   Height: 67 Inch
   CVP: 14 (7 - 17)mmHg
   Total In:
                                                                  6,813 mL
                                                                    303 mL
   PO:
   TF:
   IVF:
                                                                  1,889 mL
                                                                    303 mL
   Blood products:
                                                                  4,924 mL
   Total out:
                                                                  2,995 mL
                                                                  1,360 mL
   Urine:
                                                                  1,570 mL
                                                                  1,360 mL
   NG:
                                                                    350 mL
   Stool:
                                                                  1,075 mL
   Drains:
   Balance:
                                                                  3,818 mL
                                                                 -1,057 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, No(t) Tender:
   Skin:  Not assessed-_DP pulses equal and 2+
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   165 K/uL
   97 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.6 mEq/L
   37 mg/dL
   115 mEq/L
   145 mEq/L
   29.3 %
   23.1 K/uL
        [image002.jpg]
                             [**2102-9-5**]  09:45 PM
                             [**2102-9-6**]  12:13 AM
                             [**2102-9-6**]  03:50 AM
                             [**2102-9-6**]  07:36 AM
                             [**2102-9-6**]  11:15 AM
                             [**2102-9-6**]  02:56 PM
                             [**2102-9-6**]  06:25 PM
                             [**2102-9-6**]  10:51 PM
                             [**2102-9-7**]  03:03 AM
                             [**2102-9-7**]  06:50 AM
   WBC
   30.0
   23.5
   22.3
   23.1
   Hct
   16.9
   23.9
   23.4
   25.6
   25.8
   28.6
   30.6
   30.7
   29.7
   29.3
   Plt
   169
   149
   172
   158
   157
   165
   Cr
   1.0
   1.1
   0.8
   TropT
   0.02
   Glucose
   152
   136
   97
   Other labs: PT / PTT / INR:11.6/30.6/1.0, CK / CKMB /
   Troponin-T:195/5/0.02, Alk Phos / T Bili:/1.4, Differential-Neuts:91.0
   %, Band:0.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:185
   mg/dL, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
   79 yo male with s/p Left THR now admitted with upper GI bleed to
   [**Hospital1 19**].  This appears to be related to duodenal ulcer and now with
   clipping completed we have seen a significant decline in the rate of
   bleeding.
   1)GI Bleed--
   -WIll maintain HCT q 8 hours today
   _Continue PPI
   -Only return to PO intake with GI guidance
   -Likely NSAID
will check
H. Pylori,
   2)S/P THR-
   -Ortho to evaluate with increased drainage from wound site today
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-9-5**] 05:41 PM
   18 Gauge - [**2102-9-5**] 05:41 PM
   Multi Lumen - [**2102-9-5**] 06:40 PM
   Prophylaxis:
   DVT: Boots in place
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if patient demonstrating continued
   stability of HCT
   Total time spent: 33 minutes

2102-09-08 08:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -D/cd morphine given hx of ileus and started on tylenol for pain
   -ortho staffing him: considering placing compression dressing on oozing
   area
   -sent for IgG H pylori
   -went for hip xray, preliminary films are pending
   -ortho feels that high WBC is unlikely to be left hip as the source
   given good range of motion; more likely to be seepage from wound
   secondary to edematous state.  Would continue compression dressing.
   -GI . . . left no note re: advancement to clears or PPI drip
   -Hcts were 29 -> 29 -> 30 at noon -> evening HCT was:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-9-8**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 65 (61 - 76) bpm
   BP: 122/47(65) {116/32(61) - 147/63(79)} mmHg
   RR: 16 (13 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.6 kg (admission): 85.1 kg
   Height: 67 Inch
    CVP: 6 (6 - 15)mmHg
   Total In:
                                                                    822 mL
                                                                    161 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    582 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                    840 mL
   Urine:
                                                                  3,080 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,258 mL
                                                                   -679 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   179 K/uL
   9.8 g/dL
   83 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   30 mg/dL
   111 mEq/L
   142 mEq/L
   28.2 %
   21.7 K/uL
        [image002.jpg]
                             [**2102-9-6**]  07:36 AM
                             [**2102-9-6**]  11:15 AM
                             [**2102-9-6**]  02:56 PM
                             [**2102-9-6**]  06:25 PM
                             [**2102-9-6**]  10:51 PM
                             [**2102-9-7**]  03:03 AM
                             [**2102-9-7**]  06:50 AM
                             [**2102-9-7**]  12:31 PM
                             [**2102-9-7**]  08:01 PM
                             [**2102-9-8**]  02:25 AM
   WBC
   22.3
   23.1
   23.2
   21.7
   Hct
   25.6
   25.8
   28.6
   30.6
   30.7
   29.7
   29.3
   30.0
   29.4
   28.2
   Plt
   172
   158
   157
   165
   173
   179
   Cr
   1.1
   0.8
   0.8
   Glucose
   136
   97
   83
   Other labs: PT / PTT / INR:11.2/30.6/0.9, CK / CKMB /
   Troponin-T:195/5/0.02, Alk Phos / T Bili:/1.4, Differential-Neuts:88.0
   %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:185
   mg/dL, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   This is a 79 yo. w/ ho HTN, s/p L THR for chronic L hip pain p/w GI
   bleed s/p 4u PRBC.
   # GIB:  Patient is s/p EGD revealing bleeding ulcer in the duodenal
   bulb which was subsequently clipped and injected.  Initially, HCT did
   not bump appropriately with transfusions; however, HCT has remained
   stable overnight.  Additional non-bleeding ulcerations were noted in
   the duodenal bulb.  Patient did report history of substantial NSAID use
   in setting of hip pain 1 month prior to surgery.  Additional etiologies
   may include H. Pylori and ZES.
   - HCTS have been stable last 36 hours (very slow trend down over last
   three HCT 30-> 29.4 ->28.2) likely secondary to blood draws although
   could represent slow ooze.  Maintaining active type and screen.
   Transfusion goal was HCT > 29; if HCT continues to fall, transfuse a
   unit.
   - d/w GI need for repeat EGD in setting of stable HCT
   - continue pantoprazole gtt - likely will switch to IV PPI today (or PO
   PPI)
   - [**Hospital1 7**] HCTs today
   - advanced diet to clears but made NPO after midnight given that GI
   might scope
   - F/u H. Pylori IgG / IgM
   #. Abdominal Pain: patient initially noted diffused abdominal pain,
   likely cramping related blood induced diarrhea.  Abdominal imaging was
   unremarkable.  Patient did have progressive leukocytosis from 16 to 33
   now to 22.3.   Patient has remained afebrile and suspicion for
   infection is low.  Believe this likely represents demargination from
   systemic inflammatory response.
   - has largely resolved;
   #. Leukocytosis:  patient continues to remain afebrile with substantial
   but downward trending leukocytosis, probably secondary to inflammatory
   response to rapid bleed.  Patient is s/p hip arthroplasty and infection
   of the prosthesis should be considered; however, exam is not concerning
   for infection; ortho feels infection not likely.
   - f/u pan cultures
   - compression dressing applied to hip wound
   - consider hip XR this afternoon with orthopedics consult to evaluate
   hip
   - repeat CXR
   #. HTN: holding Lisinopril in setting of GI bleed and hypotension at
   presentation.
   #. FEN: daily electrolytes with PRN repletion, NPO for procedure
   #. Prophylaxis: Pneumoboots, on PPI gtt for bleed
   #. Access: 1 PIV, Left IJ
   #. Code: FULL CODE
   #. Communication: Patient, pt's wife.
   # Disposition:  ICU for day, potentially to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-9-5**] 05:41 PM
   Multi Lumen - [**2102-9-5**] 06:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-09-08 10:59:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -No further transfusions required in past 24 hour
   -ORtho in to eval wound site--no further intervention required.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2102-9-8**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 69 (61 - 76) bpm
   BP: 126/52(71) {116/32(61) - 147/63(79)} mmHg
   RR: 18 (13 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.6 kg (admission): 85.1 kg
   Height: 67 Inch
   CVP: 9 (6 - 15)mmHg
   Total In:
                                                                    822 mL
                                                                    165 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    582 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                  1,040 mL
   Urine:
                                                                  3,080 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,258 mL
                                                                   -876 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   179 K/uL
   83 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   30 mg/dL
   111 mEq/L
   142 mEq/L
   28.2 %
   21.7 K/uL
        [image002.jpg]
                             [**2102-9-6**]  07:36 AM
                             [**2102-9-6**]  11:15 AM
                             [**2102-9-6**]  02:56 PM
                             [**2102-9-6**]  06:25 PM
                             [**2102-9-6**]  10:51 PM
                             [**2102-9-7**]  03:03 AM
                             [**2102-9-7**]  06:50 AM
                             [**2102-9-7**]  12:31 PM
                             [**2102-9-7**]  08:01 PM
                             [**2102-9-8**]  02:25 AM
   WBC
   22.3
   23.1
   23.2
   21.7
   Hct
   25.6
   25.8
   28.6
   30.6
   30.7
   29.7
   29.3
   30.0
   29.4
   28.2
   Plt
   172
   158
   157
   165
   173
   179
   Cr
   1.1
   0.8
   0.8
   Glucose
   136
   97
   83
   Other labs: PT / PTT / INR:11.2/30.6/0.9, CK / CKMB /
   Troponin-T:195/5/0.02, Alk Phos / T Bili:/1.4, Differential-Neuts:88.0
   %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:185
   mg/dL, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR-Mild right hemidiaphragm elevation
   Assessment and Plan
   79 yo male now s/p THR with presentation with significant GI bleed now
   with reasonable stability of HCT across time following GI procedure
   with injection and clip for local control.
   1)GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)-
   -PPI IV
   -NPO for now
restart with GI clearance
   -Follow HCT [**Hospital1 7**]
   -Will need GI to determine role for repeat EGD
   -H. Pylori pending
   -no NSAIDS
   2)S/P Total Hip Replacement-
   -Compression of site
   -Ambulation today
   ICU Care
   Nutrition: per GI input
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-9-5**] 05:41 PM
   Multi Lumen - [**2102-9-5**] 06:40 PM
   Prophylaxis:
   DVT: OOB and ambulate
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 38 minutes